datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]([C:2](=[S:3])[H:7])[H:6])([H:4])[H:5].[S:8]=[C:9]([C:10]([S:11][H:14])[H:13])[H:12]>>[C:0](=[C:1][C:2](=[S:3])[H:7])([H:4])[H:5].[H:6][C:10]([C:9](=[S:8])[H:12])([S:11][H:14])[H:13],178.448
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([H:32])([H:33])[H:34])([H:30])[H:31])([H:28])[H:29])([H:26])[H:27])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:11])([H:12])[H:13].[O:35][O:36]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([H:32])([H:33])[H:34])([H:30])[H:31])([H:28])[H:29])([H:26])[H:27])([H:24])[H:25])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:11])([H:12])[H:13].[H:22][O:35][O:36],199.11656
[C:0](#[C:1][S:2])[H:3].[S:4]([H:5])[H:6]>>[C:0](#[C:1][S:2][H:5])[H:3].[S:4][H:6],40.5848
[c:0]1[c:1]([H:6])[c:2]([H:7])[c:3]([H:8])[c:4]([H:9])[c:5]1[H:10].[c:11]1[c:12]([H:17])[c:13]([H:18])[c:14]([H:19])[c:15]([H:20])[c:16]1[H:21]>>[c:0]1([H:17])[c:1]([H:6])[c:2]([H:7])[c:3]([H:8])[c:4]([H:9])[c:5]1[H:10].[c:11]1[c:16]([H:21])[c:15]([H:20])[c:14]([H:19])[c:13]([H:18])[c:12]#1,-18.422152
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[O:3][H:9])([H:4])[H:5].[C:10]([H:11])([H:12])[H:13]>>[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[O:3][C:10]([H:11])([H:12])[H:13])([H:4])[H:5].[H:9],183.902
[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])[C:4]([H:11])([H:12])[H:13])[H:7])([H:5])[H:6].[C:14]([O:15][H:19])([H:16])([H:17])[H:18]>>[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])([C:4]([H:11])([H:12])[H:13])[O:15][C:14]([H:16])([H:17])[H:18])[H:7])([H:5])[H:6].[H:19],209.585
[C:0]([c:1]1[c:2]([H:18])[c:3]([H:19])[c:4]2[c:5]([c:6]([H:20])[c:7]([H:21])[c:8]3[c:9]([H:22])[c:10]([H:23])[c:11]([H:24])[c:12]([H:25])[c:13]23)[c:14]1[H:26])([H:15])([H:16])[H:17].[O:27][H:28]>>[C:0]([c:1]1[c:2]([H:18])[c:3]([H:19])[c:4]2[c:5]([c:6]([H:20])[c:7]([H:21])[c:8]3[c:9]([H:22])[c:10]([H:23])[c:11]([H:24])[c:12]([H:25])[c:13]23)[c:14]1[H:26])([H:16])[H:17].[H:15][O:27][H:28],10.601
[N:0](=[N:1][H:3])[H:2].[N:4][H:5]>>[H:2][N:4][H:5].[N:0]=[N:1][H:3],-4.97896
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:10])[H:11])[H:9])[H:8])[H:7])([H:5])[H:6].[C:12]([C:13](=[S:14])[H:18])([H:15])([H:16])[H:17]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:10])[H:11])[H:9])([H:8])[H:18])[H:7])([H:5])[H:6].[C:12]([C:13]=[S:14])([H:15])([H:16])[H:17],157.779
[C:0]([C:1]([O:2][O:3][H:9])([H:7])[H:8])([H:4])([H:5])[H:6].[C:10]([C:11]([H:14])([H:15])[H:16])([H:12])[H:13]>>[C:0]([C:1]([O:2][O:3])([H:7])[H:8])([H:4])([H:5])[H:6].[H:9][C:10]([C:11]([H:14])([H:15])[H:16])([H:12])[H:13],-35.9824
[C:0](#[C:1][C:2](=[C:3]([H:6])[H:7])[C:4]([H:8])([H:9])[H:10])[H:5].[C:11]([c:12]1[c:13]([H:20])[c:14]([H:21])[c:15]([H:22])[c:16]([H:23])[c:17]1[H:24])([H:18])[H:19]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[C:11]([c:12]1[c:13]([H:20])[c:14]([H:21])[c:15]([H:22])[c:16]([H:23])[c:17]1[H:24])([H:18])[H:19])[C:4]([H:8])([H:9])[H:10])[H:5],26.15
[C:0](=[C:1]([C:2](=[S:3])[H:7])[H:6])([H:4])[H:5].[C:8]([S:9][H:12])([H:10])[H:11]>>[C:0](=[C:1][C:2](=[S:3])[H:7])([H:4])[H:5].[H:6][C:8]([S:9][H:12])([H:10])[H:11],95.981
[C:0](=[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])=[C:4]([C:5]([H:14])([H:15])[H:16])[C:6](=[C:7]([H:18])[H:19])[H:17])[H:10])([H:8])[H:9].[C:20]([C:21]([c:22]1[c:23]([H:32])[c:24]([H:33])[c:25]([H:34])[c:26]([H:35])[c:27]1[H:36])[H:31])([H:28])([H:29])[H:30]>>[C:0](=[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([C:5]([H:14])([H:15])[H:16])[C:6](=[C:7]([H:18])[H:19])[H:17])[C:21]([C:20]([H:28])([H:29])[H:30])([c:22]1[c:23]([H:32])[c:24]([H:33])[c:25]([H:34])[c:26]([H:35])[c:27]1[H:36])[H:31])[H:10])([H:8])[H:9],32.9281
[C:0](=[C:1]([C:2](=[C:3]([H:8])[H:9])[H:7])[H:6])([H:4])[H:5].[C:10]([C:11](=[C:12]([H:16])[H:17])[H:15])([H:13])[H:14]>>[C:0]([C:1]([C:2](=[C:3]([H:8])[H:9])[H:7])[H:6])([H:4])([H:5])[C:10]([C:11](=[C:12]([H:16])[H:17])[H:15])([H:13])[H:14],36.861
[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([H:14])([H:15])[H:16])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7].[H:17]>>[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([H:14])([H:15])[H:16])[H:10])[H:9])([H:5])([H:6])[H:7].[H:8][H:17],18.706664
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:9])([H:10])[H:11])[C:5](=[C:6]([H:13])[H:14])[H:12])[H:8])[H:7].[C:15](=[C:16]([C:17]([C:18]([H:23])([H:24])[H:25])[C:19]([H:26])([H:27])[H:28])[H:22])([H:20])[H:21]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:9])([H:10])[H:11])([C:5](=[C:6]([H:13])[H:14])[H:12])[C:17]([C:16](=[C:15]([H:20])[H:21])[H:22])([C:18]([H:23])([H:24])[H:25])[C:19]([H:26])([H:27])[H:28])[H:8])[H:7],41.589
